US08685977B2
2,5-difluoro-4-(2-methoxy-5-fluorophenoxy)benzamide
To a solution of 2,5-difluoro-4-(2-methoxy-5-fluorophenoxy)benzonitrile (Preparation 52, 444 mg, 1.59 mmol) in dimethylsulfoxide (10 mL) was added potassium carbonate (440 mg, 3.18 mmol), and hydrogen peroxide (commercial 30% solution, 0.95 mL, 9.49 mmol) This suspension was stirred for 3 hours at room temperature. The reaction mixture was then quenched with saturated aqueous potassium bisulphate solution (20 mL), and the precipitated solid filtered off to afford the title compound (499 mg, 100%). This was used in the next step with no further purification.

reactant | 2,5-difluoro-4-(2-methoxy-5-fluorophenoxy)benzonitrile | 1.59 mmol, 444 mg | FC1=C(C#N)C=C(C(=C1)OC1=C(C=CC(=C1)F)OC)F | C14H8F3NO2
reactant | potassium carbonate | 3.18 mmol, 440 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 9.49 mmol, 0.95 mL | OO | H2O2
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2,5-difluoro-4-(2-methoxy-5-fluorophenoxy)benzamide | 499 mg, 100% | FC1=C(C(=O)N)C=C(C(=C1)OC1=C(C=CC(=C1)F)OC)F | C14H10F3NO3
